US05202337
b) 10-Thia-1,4-diazatricyclo6.3.0.02,6 ]undecane
12.5 g (50 mmol) of ethyl 10-thia-1,4-diazatricyclo[6.3.0.02,6 ]undecane-4-carboxylate together with 32 g of Ba(OH)2 ×8H2O are refluxed overnight in 225 ml of water. Potassium carbonate is added, barium carbonate is filtered off with suction, and the filtrate is extracted ten times using 100 ml portions of chloroform. The extracts are dried over potassium carbonate, concentrated and distilled.

reactant | ethyl 10-thia-1,4-diazatricyclo[6.3.0.02,6 ]undecane-4-carboxylate | 50 mmol, 12.5 g | N12C3CN(CC3CC2CSC1)C(=O)OCC | C11H18N2O2S
reactant | Potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | 225 ml | O | H2O
product | undecane | CCCCCCCCCCC | C11H24
